US07417060B2
To a suspension of sodium hydride (32.87 g) in dimethyl sulfoxide (600 ml) was added 2-propanethiol (41.73 ml) at ° C. under nitrogen atmosphere and stirred at room temperature for 1 hour. The reaction mixture was cooled with ice bath and added 4-bromo-2-fluorobenzoic acid (60 g). The reaction mixture was stirred at 70° C. for 1.5 hours and then cooled to room temperature. The mixture was poured into water (3 l) and washed with hexane (600 ml). The water layer was acidified with concentrated hydrochloric acid and then the resulting white solid was collected by filtration. The white solid was dried at 60° C. to give 4-bromo-2-(isopropylthio)benzoic acid (75.49 g).

reactant | sodium hydride | 32.87 g | [H-].[Na+]
reactant | 2-propanethiol | 41.73 ml | CC(C)S | C3H8S
reactant | 4-bromo-2-fluorobenzoic acid | 60 g | BrC1=CC(=C(C(=O)O)C=C1)F | C7H4BrFO2
reactant | water | 3 l | O | H2O
solvent | dimethyl sulfoxide | 600 ml | CS(=O)C | C2H6OS
product | 4-bromo-2-(isopropylthio)benzoic acid | 75.49 g | BrC1=CC(=C(C(=O)O)C=C1)SC(C)C | C10H11BrO2S
